US09290485B2
e) 5-Benzyl-1-methyl-1H-[1,2,4]triazole-3-carboxylic acid (6-amino-2,4-dimethyl-pyridin-3-ylmethyl)-amide
(5-{[(5-Benzyl-1-methyl-1H-[1,2,4]triazole-3-carbonyl)-amino]-methyl}-4,6-dimethyl-pyridin-2-yl)-carbamic acid tert-butyl ester (29 mg, 0.064 mmol) was dissolved in a mixture of dichloromethane (4 ml) and TFA (1 ml). The reaction mixture was shaken at 23° C. for 18 h. Solvents were removed in vacuo. The residue was dissolved in dichloromethane/methanol 1:1 (1 ml) and purified over VARIAN SCX-SPE cartridge (strong cation exchange), washing with methanol and releasing the compound with 2M ammonia in methanol. The basic fraction was evaporated in vacuo to give the title compound. 1H-NMR (DMSO, 400 MHz) 8.5 (s, 1H), 7.2-7.3 (m, 5H), 7.0 (br s, 2H) 6.5 (s, 1H), 4.3 (d, 2H), 4.2 (s, 2H), 3.8 (s, 3H), 2.4 (s, 3H), 2.3 (s, 3H). UPLC-MS (method F) Rt=0.92 min, [M+H]+=351.4. HPLC (method G) Rt=1.281 min.

reactant | (5-{[(5-Benzyl-1-methyl-1H-[1,2,4]triazole-3-carbonyl)-amino]-methyl}-4,6-dimethyl-pyridin-2-yl)-carbamic acid tert-butyl ester | 0.064 mmol, 29 mg | C(C)(C)(C)OC(NC1=NC(=C(C(=C1)C)CNC(=O)C1=NN(C(=N1)CC1=CC=CC=C1)C)C)=O | C24H30N6O3
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
solvent | TFA | 1 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | 5-Benzyl-1-methyl-1H-[1,2,4]triazole-3-carboxylic acid (6-amino-2,4-dimethyl-pyridin-3-ylmethyl)-amide | NC1=CC(=C(C(=N1)C)CNC(=O)C1=NN(C(=N1)CC1=CC=CC=C1)C)C | C19H22N6O
